US05892024
3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-formyl thymidine
3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-hydroxymethyl thymidine was oxidized to the title aldehyde using the same procedure as described for 3'-O-t-butyl-dimethylsilyl thymidine 4'-aldehyde in Example 11.

reactant | 3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-hydroxymethyl thymidine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CCO)N1C(=O)NC(=O)C(C)=C1 | C17H30N2O5Si
reactant | 3'-O-t-butyl-dimethylsilyl thymidine 4'-aldehyde | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@]1(CO)C=O)N1C(=O)NC(=O)C(C)=C1 | C17H28N2O6Si
product | 3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-formyl thymidine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CC=O)N1C(=O)NC(=O)C(C)=C1 | C17H28N2O5Si
